US08809479B2
Preparation of 1,2,4-tris-[2-(trimethoxy-silanyl)-ethyl]cyclohexane, component 1
Into a 500 ml round-bottom flask, equipped with an addition funnel, thermometer, condenser and a magnetic stirrer, were charged 1,2,4-trivinylcyclohexane (50 grams, 0.31 mole, from Acros Organics) and platinum catalyst (10 ppm of H2PtCl6 solution from Sigma-Aldrich). The mixture was heated to 90° C. and dry air was bubbled into the reaction mixture. Trimethoxysilane (124 grams, 1.02 mole, from Momentive), was added to the flask using an addition funnel over a 70-minute period at such a rate as to maintain the reaction temperature at approximately 90° C. The reaction was recatalyzed with platinum catalysts (10 ppm of platinum-divinyltetramethyldisiloxane complex, containing 1.9% Pt, Karstedt's catalyst; see U.S. Pat. No. 377,452) and promoted with dried air sparge. The reaction was monitored using gas chromatography. After the reaction was complete, excess trimethoxysilane was removed by vacuum distillation. The final product is a clear yellow liquid.

reactant | 1,2,4-trivinylcyclohexane | 0.31 mole, 50 grams | C(=C)C1C(CC(CC1)C=C)C=C | C12H18
reactant | Trimethoxysilane | 1.02 mole, 124 grams | CO[SiH](OC)OC | C3H10O3Si
catalyst | platinum | [Pt] | Pt
product | 1,2,4-tris-[2-(trimethoxy-silanyl)-ethyl]cyclohexane | CO[Si](CCC1C(CC(CC1)CC[Si](OC)(OC)OC)CC[Si](OC)(OC)OC)(OC)OC | C21H48O9Si3
